US06313153B1
Synthesis of (E)-2-cyano-N-(4-methoxymethoxyphenethyl)-3-(3-pyridyl)-2-propenoic acid amide (Compound 1)
Then, ethanol (10 ml), 3-pyridinecarbaldehyde (0.62 g, 5.8 mmol) and a drop of piperidine were added to the resulting 2-cyano-N-(4-methoxymethoxyphenethyl)acetamide (0.96 g, 3,87 mmol) and refluxed under heating for 19 hours. The reaction mixture was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (chloroform:methanol=19:1) and recrystallized to yield the titled compound (0.83 g, 64%). Properties: mp 105-106° C. (ethyl acetate-hexane)

reactant | 3-pyridinecarbaldehyde | 5.8 mmol, 0.62 g | N1=CC(=CC=C1)C=O | C6H5NO
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | 2-cyano-N-(4-methoxymethoxyphenethyl)acetamide | 3,87 mmol, 0.96 g | C(#N)CC(=O)NCCC1=CC=C(C=C1)OCOC | C13H16N2O3
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | (E)-2-cyano-N-(4-methoxymethoxyphenethyl)-3-(3-pyridyl)-2-propenoic acid amide | 0.83 g, 64% | C(#N)/C(/C(=O)NCCC1=CC=C(C=C1)OCOC)=C\C=1C=NC=CC1 | C19H19N3O3
